US07612114B2
2-[6-(tert-Butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenylamine
To a solution of 6-(2-amino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol (850 mg) in N,N-dimethylformamide (10 ml) were sequentially added imidazole (500 mg) and tert-butyldimethylsilyl chloride (480 mg), and the solution was stirred for 1 hour at room temperature. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (805 mg).

reactant | 6-(2-amino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 850 mg | NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O | C17H19NO2
reactant | imidazole | 500 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 480 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[6-(tert-Butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenylamine | 805 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2CCC(CC2=CC1)C1=C(C=C(C=C1)OC)N | C23H33NO2Si
